US08492427B2
6-(2-Fluoro-4-trimethylsilanyl-phenylamino)-1-oxo-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester
To a solution of 2-cyano-5-(2-fluoro-4-trimethylsilanylphenylamino)-terephthalic acid dimethyl ester (300 mg, 0.75 mmol) in methanol (15 ml) and DCM (2 ml) at 0° C. was added silica (1 g) and cobalt (II) chloride hexahydrate (357 mg, 1.50 mmol) followed by sodium borohydride (285 mg, 7.50 mmol). During the addition of the sodium borohydride large amounts of effervescence were observed and the reaction turned black. The reaction mixture was stirred at 0° C. for 1 hour. The reaction was filtered and the filtrate concentrated in vacuo to provide a residu that was subjected to flash chromatography (SiO2, gradient 0-20% methanol in DCM) to yield the title compound as a brown solid (138 mg, 49%). LCMS (Method B): RT=4.18 min, 2M+H−=745 (100%), M+H+=373 (25%).

reactant | 2-cyano-5-(2-fluoro-4-trimethylsilanylphenylamino)-terephthalic acid dimethyl ester | 0.75 mmol, 300 mg | COC(C1=C(C=C(C(=O)OC)C(=C1)NC1=C(C=C(C=C1)[Si](C)(C)C)F)C#N)=O | C20H21FN2O4Si
reactant | sodium borohydride | 7.50 mmol, 285 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | cobalt (II) chloride hexahydrate | 1.50 mmol, 357 mg | O.O.O.O.O.O.[Co](Cl)Cl
product | 6-(2-Fluoro-4-trimethylsilanyl-phenylamino)-1-oxo-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester | 138 mg, 49% | COC(=O)C=1C=C2CNC(C2=CC1NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C19H21FN2O3Si
